** Name: SymmetricalOpAmp9

.MACRO SymmetricalOpAmp9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=25e-6
mDiodeTransistorNmos2 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=91e-6
mDiodeTransistorNmos3 inputVoltageBiasXXnXX0 inputVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=4e-6 W=31e-6
mDiodeTransistorNmos4 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=91e-6
mDiodeTransistorPmos5 ibias ibias sourcePmos sourcePmos pmos4 L=4e-6 W=35e-6
mDiodeTransistorPmos6 inOutputStageBiasComplementarySecondStage inOutputStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=27e-6
mNormalTransistorNmos7 inOutputStageBiasComplementarySecondStage inputVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=4e-6 W=486e-6
mNormalTransistorNmos8 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=4e-6 W=73e-6
mNormalTransistorNmos9 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=4e-6 W=73e-6
mNormalTransistorNmos10 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=196e-6
mNormalTransistorNmos11 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=196e-6
mNormalTransistorPmos12 inOutputTransconductanceComplementarySecondStage ibias sourcePmos sourcePmos pmos4 L=4e-6 W=443e-6
mNormalTransistorPmos13 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=6e-6 W=440e-6
mNormalTransistorPmos14 innerComplementarySecondStage inOutputStageBiasComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner pmos4 L=1e-6 W=461e-6
mNormalTransistorPmos15 inputVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=4e-6 W=60e-6
mNormalTransistorPmos16 out inOutputStageBiasComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=1e-6 W=94e-6
mNormalTransistorPmos17 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=6e-6 W=440e-6
mNormalTransistorPmos18 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=4e-6 W=600e-6
mNormalTransistorPmos19 SecondStageYinnerStageBias innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=99e-6
mNormalTransistorPmos20 StageBiasComplementarySecondStageYinner innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=99e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp9

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 4.94201 mW
** Area: 14512 (mu_m)^2
** Transit frequency: 23.1121 MHz
** Transit frequency with error factor: 23.1121 MHz
** Slew rate: 37.1985 V/mu_s
** Phase margin: 61.3065°
** CMRR: 143 dB
** negPSRR: 43 dB
** posPSRR: 46 dB
** VoutMax: 4.34001 V
** VoutMin: 0.5 V
** VcmMax: 3.93001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** NormalTransistorNmos: 274.142 muA
** NormalTransistorPmos: -17.4679 muA
** NormalTransistorPmos: -128.87 muA
** DiodeTransistorNmos: 87.3401 muA
** DiodeTransistorNmos: 87.3401 muA
** NormalTransistorPmos: -174.68 muA
** NormalTransistorPmos: -87.3409 muA
** NormalTransistorPmos: -87.3409 muA
** NormalTransistorNmos: 186.656 muA
** NormalTransistorNmos: 186.655 muA
** NormalTransistorPmos: -186.655 muA
** NormalTransistorPmos: -186.656 muA
** NormalTransistorPmos: -186.655 muA
** NormalTransistorPmos: -186.656 muA
** NormalTransistorNmos: 186.656 muA
** NormalTransistorNmos: 186.655 muA
** DiodeTransistorNmos: 17.4671 muA
** DiodeTransistorNmos: 128.871 muA
** DiodeTransistorPmos: -274.141 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.18201  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputStageBiasComplementarySecondStage: 3.68601  V
** inOutputTransconductanceComplementarySecondStage: 0.901001  V
** inSourceTransconductanceComplementarySecondStage: 0.555001  V
** innerComplementarySecondStage: 4.11001  V
** inputVoltageBiasXXnXX0: 0.568001  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.32101  V
** innerStageBias: 4.58201  V
** innerTransconductance: 0.150001  V
** inner: 4.40001  V
** inner: 0.150001  V


.END