** Name: SymmetricalOpAmp93

.MACRO SymmetricalOpAmp93 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 out2FirstStage out2FirstStage sourceNmos sourceNmos nmos4 L=3e-6 W=32e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=10e-6 W=13e-6
mDiodeTransistorPmos3 innerComplementarySecondStage innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=570e-6
mDiodeTransistorPmos4 ibias ibias sourcePmos sourcePmos pmos4 L=4e-6 W=37e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=10e-6 W=17e-6
mNormalTransistorNmos6 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=3e-6 W=119e-6
mNormalTransistorNmos7 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=3e-6 W=173e-6
mNormalTransistorNmos8 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=3e-6 W=173e-6
mNormalTransistorNmos9 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos4 L=3e-6 W=119e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=10e-6 W=29e-6
mNormalTransistorNmos11 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=86e-6
mNormalTransistorNmos12 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=86e-6
mNormalTransistorNmos13 SecondStageYinnerTransconductance out1FirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=207e-6
mNormalTransistorNmos14 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=207e-6
mNormalTransistorPmos15 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=89e-6
mNormalTransistorPmos16 out outVoltageBiasXXpXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=10e-6 W=463e-6
mNormalTransistorPmos17 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=89e-6
mNormalTransistorPmos18 out2FirstStage ibias sourcePmos sourcePmos pmos4 L=4e-6 W=403e-6
mNormalTransistorPmos19 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=4e-6 W=28e-6
mNormalTransistorPmos20 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=4e-6 W=600e-6
mNormalTransistorPmos21 SecondStageYinnerStageBias innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=570e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp93

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 3.57001 mW
** Area: 14970 (mu_m)^2
** Transit frequency: 27.4071 MHz
** Transit frequency with error factor: 27.4074 MHz
** Slew rate: 38.9132 V/mu_s
** Phase margin: 55.004°
** CMRR: 144 dB
** negPSRR: 49 dB
** posPSRR: 60 dB
** VoutMax: 4.32001 V
** VoutMin: 0.350001 V
** VcmMax: 3.96001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorNmos: 17.2591 muA
** NormalTransistorPmos: -7.70799 muA
** NormalTransistorPmos: -109.515 muA
** NormalTransistorNmos: 82.5921 muA
** NormalTransistorNmos: 82.5911 muA
** NormalTransistorNmos: 82.5921 muA
** NormalTransistorNmos: 82.5911 muA
** NormalTransistorPmos: -165.185 muA
** NormalTransistorPmos: -82.5929 muA
** NormalTransistorPmos: -82.5929 muA
** NormalTransistorNmos: 197.129 muA
** NormalTransistorNmos: 197.13 muA
** NormalTransistorPmos: -197.128 muA
** NormalTransistorPmos: -197.129 muA
** DiodeTransistorPmos: -197.128 muA
** NormalTransistorNmos: 197.129 muA
** NormalTransistorNmos: 197.13 muA
** DiodeTransistorNmos: 7.70701 muA
** DiodeTransistorNmos: 109.516 muA
** DiodeTransistorPmos: -17.2599 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.18901  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceTransconductanceComplementarySecondStage: 0.555001  V
** innerComplementarySecondStage: 4.23901  V
** out: 2.5  V
** out1FirstStage: 0.555001  V
** out2FirstStage: 0.755001  V
** outVoltageBiasXXnXX0: 0.669001  V
** outVoltageBiasXXpXX1: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 0.193001  V
** innerTransistorStack2Load1: 0.193001  V
** sourceTransconductance: 3.29101  V
** innerStageBias: 4.73601  V
** innerTransconductance: 0.150001  V
** inner: 0.150001  V


.END