** Name: SymmetricalOpAmp98

.MACRO SymmetricalOpAmp98 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 out2FirstStage out2FirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos2 ibias ibias sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos3 innerComplementarySecondStage innerComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner pmos4 L=4e-6 W=232e-6
mDiodeTransistorPmos4 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=4e-6 W=232e-6
mNormalTransistorNmos5 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=1e-6 W=41e-6
mNormalTransistorNmos6 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=1e-6 W=37e-6
mNormalTransistorNmos7 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=1e-6 W=37e-6
mNormalTransistorNmos8 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos4 L=1e-6 W=41e-6
mNormalTransistorNmos9 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=89e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=89e-6
mNormalTransistorNmos11 SecondStageYinnerTransconductance out1FirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=262e-6
mNormalTransistorNmos12 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=262e-6
mNormalTransistorPmos13 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=4e-6 W=80e-6
mNormalTransistorPmos14 out innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage pmos4 L=4e-6 W=232e-6
mNormalTransistorPmos15 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=4e-6 W=80e-6
mNormalTransistorPmos16 out2FirstStage ibias sourcePmos sourcePmos pmos4 L=1e-6 W=255e-6
mNormalTransistorPmos17 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=1e-6 W=337e-6
mNormalTransistorPmos18 StageBiasComplementarySecondStageYinner inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=4e-6 W=232e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp98

** Expected Performance Values: 
** Gain: 77 dB
** Power consumption: 8.14201 mW
** Area: 5822 (mu_m)^2
** Transit frequency: 23.0061 MHz
** Transit frequency with error factor: 23.0062 MHz
** Slew rate: 100.166 V/mu_s
** Phase margin: 80.2142°
** CMRR: 130 dB
** negPSRR: 33 dB
** posPSRR: 38 dB
** VoutMax: 3.04001 V
** VoutMin: 0.550001 V
** VcmMax: 3.51001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorPmos: -258.538 muA
** NormalTransistorNmos: 170.839 muA
** NormalTransistorNmos: 170.838 muA
** NormalTransistorNmos: 170.839 muA
** NormalTransistorNmos: 170.838 muA
** NormalTransistorPmos: -341.676 muA
** NormalTransistorPmos: -170.838 muA
** NormalTransistorPmos: -170.838 muA
** NormalTransistorNmos: 504.054 muA
** NormalTransistorNmos: 504.053 muA
** NormalTransistorPmos: -504.053 muA
** DiodeTransistorPmos: -504.054 muA
** DiodeTransistorPmos: -504.053 muA
** NormalTransistorPmos: -504.054 muA
** NormalTransistorNmos: 504.054 muA
** NormalTransistorNmos: 504.053 muA
** DiodeTransistorNmos: 258.539 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.19901  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceStageBiasComplementarySecondStage: 3.73601  V
** inSourceTransconductanceComplementarySecondStage: 0.555001  V
** innerComplementarySecondStage: 2.47201  V
** out: 2.5  V
** out1FirstStage: 0.555001  V
** out2FirstStage: 0.955001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 0.328001  V
** innerTransistorStack2Load1: 0.328001  V
** sourceTransconductance: 3.75201  V
** innerTransconductance: 0.150001  V
** inner: 3.73001  V
** inner: 0.150001  V


.END